US07652008B2
2-Chloro-N-{(±)-trans-3,7-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-6-yl}-acetamide
To a solution of 2-Chloro-N-{(±)-trans-3-hydroxy-7-methoxymethoxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-6-yl}-acetamide (228 mg, 0.51 mmol) in methylene chloride (6 mL), boron tribromide (1 M solution in methylene chloride, 2.42 mL, 2.42 mmol) was added at 0° C., and the resulting mixture was stirred for 2 hours. Upon the completion of the reaction, methanol and saturated aqueous sodium hydrogencarbonate aqeuous solution were added thereto, and the resulting solution was extracted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate aqeuous solution and then with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated to obtain the aimed product (yield: 100%).

reactant | 2-Chloro-N-{(±)-trans-3-hydroxy-7-methoxymethoxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-6-yl}-acetamide | 0.51 mmol, 228 mg | ClCC(=O)NC=1C(=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C1)OCOC | C23H29ClN2O5
reactant | boron tribromide | 2.42 mmol, 1 M, 2.42 mL | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-{(±)-trans-3,7-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-6-yl}-acetamide | yield: 100% | ClCC(=O)NC=1C(=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C1)O | C21H25ClN2O4
